data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
151,168,[CH3:9][C:10]([CH3:11])=[N+:12]([CH3:13])[C-:14]([CH3:15])[CH3:16].[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[Cl:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[C:14]([CH3:15])([CH3:16])[N:12]([CH3:13])[C:10]2([CH3:9])[CH3:11],water,298.15,11.494872539563971,-61.23062914520536
3966,4539,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]#[N:18])[C:19]([CH3:20])=[O:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:19]([CH3:20])=[O:21])[N:15]=[C:16]1[C:17]#[N:18],water,298.15,12.38419188344249,-33.772063438369045
2389,2654,[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:11]#[C:12][C:13]([Br:14])([Br:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][C:21](=[O:22])[C:23]#[N+:24][N-:25][C:26]#[N:27]>>[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[c:11]2[c:12]([n:25]([C:26]#[N:27])[n:24][c:23]2[C:21]([CH3:20])=[O:22])[C:13]([Br:14])([Br:15])[CH2:16][CH2:17][CH2:18][CH2:19]1,water,298.15,12.31060897564356,-69.25565315121044
2179,2417,[CH3:14][NH:15][C:16](=[O:17])[C:18](=[NH+:19][N-:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[N:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[NH:19][C:18]2([C:16]([NH:15][CH3:14])=[O:17])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,23.84305283556939,-10.200470840343428
3557,4055,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C-:9]([NH+:10]=[CH:11][C:12]([CH3:13])=[O:14])[C:15](=[O:16])[O:17][CH3:18]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([O:6][CH3:5])=[O:8])([C:15](=[O:16])[O:17][CH3:18])[NH:10][CH:11]1[C:12]([CH3:13])=[O:14],water,298.15,22.515730311000905,-21.38481393163611
4434,5066,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])=[N:15][C:16]1([C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23],water,298.15,17.967006628547683,-25.310341876482763
3182,3592,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[C:11]([CH3:12])=[NH+:13][N-:14][C:15]#[N:16]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:14]([C:15]#[N:16])[NH:13][C:11]1([C:9]([O:8][CH3:7])=[O:10])[CH3:12],water,298.15,35.67723186263698,3.29102442261577
1851,2053,[CH3:1][NH:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[NH:8][CH3:9])=[C:10]([C:11](=[O:12])[NH:13][CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:21][C:22](=[O:23])[C:24]([C:25]#[N:26])=[N+:27]([CH3:28])[O-:29]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]([C:11](=[O:12])[NH:13][CH3:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[C:24]([C:22]([CH3:21])=[O:23])([C:25]#[N:26])[N:27]([CH3:28])[O:29]1,water,298.15,42.08011533646975,15.278501378604776
3035,3392,[CH2:1]=[CH2:2].[CH3:3][C:4](=[O:5])[c:6]1[o:7][c:8](=[O:9])[c-:10]([C:11]([CH3:12])=[O:13])[o+:14]1>>[CH2:1]1[CH2:2][C:10]2([C:11]([CH3:12])=[O:13])[C:8](=[O:9])[O:7][C:6]1([C:4]([CH3:3])=[O:5])[O:14]2,water,298.15,13.068991925427046,-27.6712141815102
1888,2093,[CH3:14][C:15](=[O:16])[C-:17]([NH+:18]=[CH:19][C:20]#[N:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][CH:8]([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([CH:8]([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:17]([C:15]([CH3:14])=[O:16])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[NH:18][CH:19]2[C:20]#[N:21],water,298.15,19.753708853757395,-44.5196486897056
1670,1842,[CH3:12][NH:13][C:14](=[O:15])[C:16](=[NH+:17][N-:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[C:25](=[O:26])[NH:27][CH3:28].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:25](=[O:26])[NH:27][CH3:28])[NH:17][N:18]3[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,14.3184656559139,-30.45827662553653
3256,3679,[CH3:9][O:10][C:11](=[O:12])[C:13]#[N+:14][N-:15][C:16]#[N:17].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:15]([C:16]#[N:17])[N:14]=[C:13]1[C:11]([O:10][CH3:9])=[O:12],water,298.15,13.567887020277396,-47.65057049839525
